US06884868B1
To a solution of 4-hydroxy-N-(benzyloxycarbonyl)piperidine (5.0 g) in THF (50 ml) were added 3-bromocyclohexene (3.67 ml) and silver oxide (7.4 g). The mixture was stirred at ambient temperature overnight. To the solution were added 3-bromocyclohexene (4.0 ml) and silver oxide (5.0 g), and the mixture was stirred at 40° C. for 6 hours. The reaction mixture was filtered, and the filtrate was evaporated in vacuo. The resulting residue was chromatographed on silica gel (300 ml) eluting with a mixture of n-hexane and ethyl acetate (5:1 v/v). The fractions containing the desired compound were collected and evaporated under reduced pressure to give 4-(2-cyclohexenyloxy)-N-(benzyloxycarbonyl)piperidine (3.83 g).

reactant | 4-hydroxy-N-(benzyloxycarbonyl)piperidine | 5.0 g | OC1CCN(CC1)C(=O)OCC1=CC=CC=C1 | C13H17NO3
reactant | 3-bromocyclohexene | 3.67 ml | BrC1C=CCCC1 | C6H9Br
reactant | 3-bromocyclohexene | 4.0 ml | BrC1C=CCCC1 | C6H9Br
solvent | THF | 50 ml | C1CCOC1 | C4H8O
catalyst | silver oxide | 7.4 g | [Ag]=O
catalyst | silver oxide | 5.0 g | [Ag]=O
product | 4-(2-cyclohexenyloxy)-N-(benzyloxycarbonyl)piperidine | 3.83 g | C1(C=CCCC1)OC1CCN(CC1)C(=O)OCC1=CC=CC=C1 | C19H25NO3
